US06242470B1
N-(2-Chloro-4-hydroxyphenyl)-tricyclo[3.3.1.13,7]decane-1-acetamide
Prepared according to the method of Example 1b) from 1-adamantaneacetyl chloride (2.9 g) and 2-chloro-4-hydroxyaniline to give the title compound as a white solid. (0.15 g).

reactant | 1-adamantaneacetyl chloride | 2.9 g | C12(CC3CC(CC(C1)C3)C2)CC(=O)Cl | C12H17ClO
reactant | 2-chloro-4-hydroxyaniline | ClC1=C(N)C=CC(=C1)O | C6H6ClNO
product | N-(2-Chloro-4-hydroxyphenyl)-tricyclo[3.3.1.13,7]decane-1-acetamide | ClC1=C(C=CC(=C1)O)NC(CC12CC3CC(CC(C1)C3)C2)=O | C18H22ClNO2
